US08563735B2
4-(3-(dimethylamino)propoxy)-3-nitrobenzenesulfonamide
Triphenylphosphine (1.398 g) was added to tetrahydrofuran (20 mL) and cooled to 0° C. Diethylazodicarboxylate (40% solution, 2.428 mL) was added, and the solution was stirred for at 0° C. for 15 minutes. 4-Hydroxy-3-nitrobenzenesulfonamide (1.163 g) and 3-(dimethylamine)propan-1-ol (0.567 mL) were added, and the solution was allowed to warm to room temperature and stir for 16 hours. Solvent was removed under vacuum and the material recrystallized using 20% methanol (dichloromethane). The recrystallized solid was washed with dichloromethane, dissolved in methanol/dichloromethane, treated with triethylamine (0.13 mL, 0.924 mmol), and purified by flash column chromatography on silica gel with 10-20% methanol in dichloromethane.

reactant | Triphenylphosphine | 1.398 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethylazodicarboxylate | 2.428 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-Hydroxy-3-nitrobenzenesulfonamide | 1.163 g | OC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-] | C6H6N2O5S
reactant | triethylamine | 0.924 mmol, 0.13 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 4-(3-(dimethylamino)propoxy)-3-nitrobenzenesulfonamide | CN(CCCOC1=C(C=C(C=C1)S(=O)(=O)N)[N+](=O)[O-])C | C11H17N3O5S
